US07534914B2
STEP 1. Methyl 5-chloro-2-[(4-chlorophenoxy)methyl]benzoate
The title compound was prepared according to the procedure described in step 1 of Example 1 from methyl 2-(bromoethyl)-5-chlorobenzoate and 4-chlorophenol:

reactant | methyl 2-(bromoethyl)-5-chlorobenzoate | BrCCC1=C(C(=O)OC)C=C(C=C1)Cl | C10H10BrClO2
reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
product | Methyl 5-chloro-2-[(4-chlorophenoxy)methyl]benzoate | ClC=1C=CC(=C(C(=O)OC)C1)COC1=CC=C(C=C1)Cl | C15H12Cl2O3
